US05569655
To a solution of n-butyllithium (2.5M, 39 ml, 0.096 mol) in 300 ml of ether cooled to -75° C. was added 4-bromopyridine (15.1 g,0.095 mol) in 100 ml of ether at such a rate to maintain the internal temperature below -50° C. The resulting mixture was stirred at -75° C. for 15 min., and N-methyl,N-methoxy-urethane (5.8 g, 0.043 mol) in 25 ml of ether was added over a 20 min period, and the mixtue was warmed to room temperature and then stirred for 2 h. The mixture was quenched with 300 ml of water and the layers were separated. The organic layer was extracted with 6N HCl solution, and the aqueous layer was basified with 10% NaOH solution. The basic solution was extracted with chloroform, organic layer dried over sodium sulfate, concentrated in vacuo, and purified by chromatography on silica (ethyl acetate) to afford 3.9 g (48.7%) of di-(4-pyridyl)ketone.

reactant | n-butyllithium | 0.096 mol, 2.5M, 39 ml | C(CCC)[Li]
reactant | 4-bromopyridine | 0.095 mol, 15.1 g | BrC1=CC=NC=C1 | C5H4BrN
reactant | N-methyl,N-methoxy-urethane | 0.043 mol, 5.8 g | CN(C(=O)OCC)OC | C5H11NO3
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 100 ml | CCOCC | C4H10O
reactant | ether | 25 ml | CCOCC | C4H10O
product | di-(4-pyridyl)ketone | 3.9 g, 48.7% | N1=CC=C(C=C1)C(=O)C1=CC=NC=C1 | C11H8N2O
